US06495546B1
To a solution of 8-[N-tert-butoxycarbonyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-6,7,8,9-tetrahydro-5H-benzocycloheptene-2-carboxylic acid methyl ester (4.5 g) in methanol (45 ml) and tetrahydrofuran (15 ml) was added 1N sodium hydroxide aqueous solution. After stirring at room temperature for 6 hours, the reaction mixture was concentrated under reduced pressure, neutralized with 1N hydrochloric acid solution under ice-cooling. The product was extracted with ethyl acetate, and the organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo to afford 8-[N-tert-butoxycarbonyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-6,7,8,9-tetrahydro-5H-benzocycloheptene-2-carboxylic acid (4.48 g).

reactant | 8-[N-tert-butoxycarbonyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-6,7,8,9-tetrahydro-5H-benzocycloheptene-2-carboxylic acid methyl ester | 4.5 g | COC(=O)C=1C=CC2=C(CC(CCC2)N(C[C@@H](COC2=CC=CC=C2)O)C(=O)OC(C)(C)C)C1 | C27H35NO6
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | methanol | 45 ml | CO | CH4O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 8-[N-tert-butoxycarbonyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-6,7,8,9-tetrahydro-5H-benzocycloheptene-2-carboxylic acid | 4.48 g | C(C)(C)(C)OC(=O)N(C[C@@H](COC1=CC=CC=C1)O)C1CCCC2=C(C1)C=C(C=C2)C(=O)O | C26H33NO6
